US08003647B2
4-{5-[(E)-2-Ethoxycarbonylvinyl]-3-cyanoindol-1-yl}benzoic acid
A solution of 4-(5-bromo-3-cyanoindol-1-yl)benzoic acid ethyl ester (0.1 g), acrylic acid ethyl ester (0.11 g) and triethylamine (0.082 g) in N,N-dimethylformamide (2 mL) was stirred in the presence of palladium (II) acetate (0.0061 g) and triphenylphosphine (0.014 g) at 100° C. for 30 hours. This reaction mixture was poured into water, and this resulting mixture was extracted with ethyl acetate twice. This organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: ethyl acetate/n-hexane=10/90-75/25) to give the title compound (0.035 g).

reactant | 4-(5-bromo-3-cyanoindol-1-yl)benzoic acid ethyl ester | 0.1 g | C(C)OC(C1=CC=C(C=C1)N1C=C(C2=CC(=CC=C12)Br)C#N)=O | C18H13BrN2O2
reactant | acrylic acid ethyl ester | 0.11 g | C(C)OC(C=C)=O | C5H8O2
reactant | triethylamine | 0.082 g | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 0.014 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | palladium (II) acetate | 0.0061 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | 4-{5-[(E)-2-Ethoxycarbonylvinyl]-3-cyanoindol-1-yl}benzoic acid | 0.035 g | C(C)OC(=O)/C=C/C=1C=C2C(=CN(C2=CC1)C1=CC=C(C(=O)O)C=C1)C#N | C21H16N2O4
